US08389743B2
trans-3-[2,3-Dichloro-4-(pyrrolidin-1-ylmethyl)phenyl]-N,N-dimethylcyclobutanecarboxamide, hydrochloride
To a solution of intermediate 2, 3-[2,3-dichloro-4-(pyrrolidin-1-ylmethyl)phenyl]-N,N-dimethylcyclobut-2-ene-1-carboxamide, trifluoroacetate (0.673 mmol) in 5 mL of ethanol was added chlorotris(triphenylphosphine)rhodium(I) (63 mg, 0.0673 mmol). The mixture was hydrogenated (40 psi H2, 50° C.) for 3 h; the reaction was monitored by LCMS. The mixture was evaporated to dryness, then 5 ml of 1N HCl was added to the residue and the solution was extracted with ethyl acetate (2×5 ml), the organic layers were discarded. 10N NaOH (1 mL) was added to the water layer and the water solution was extracted with ethyl acetate (3×5 mL). The organic layers were dried and evaporated in vacuum. The residue was purified by chromatography (SiO2 63/100 μm, 10 g, CHCl3/hexane 80:20→100:0, CHCl3/MeOH 100:0→90:10). Fractions containing the product were evaporated. The residue was dissolved in 2 ml of ether and 0.1 mL of 4N HCl/dioxane was added under stirring. The mixture was evaporated; the residue was dried in vacuum to afford the title compound (74 mg, 28%) as a white solid. LCMS data: 355, 356, and 357 (M+H)+ (calculated for C18H24Cl2N2O 355.31). 1H NMR data (CD3OD): δ 7.69 (d, 1H, J=8.1 Hz), 7.58 (d, 1H, J=8.1 Hz), 4.62 (s, 2H), 3.88-3.98 (m, 1H), 3.54-3.63 (m, 2H), 3.35-3.45 (m, 1H), 3.25-3.34 (m, 2H+MeOH), 2.99 (s, 6H), 2.71-2.79 (m, 2H), 2.42-2.52 (m, 2H), 2.16-2.27 (m, 2H), 1.98-2.12 (m, 2H).

reactant | 3-[2,3-dichloro-4-(pyrrolidin-1-ylmethyl)phenyl]-N,N-dimethylcyclobut-2-ene-1-carboxamide | ClC1=C(C=CC(=C1Cl)CN1CCCC1)C1=CC(C1)C(=O)N(C)C | C18H22Cl2N2O
reactant | trifluoroacetate | 0.673 mmol | FC(C(=O)[O-])(F)F
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | chlorotris(triphenylphosphine)rhodium(I) | 0.0673 mmol, 63 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Rh]
product | trans-3-[2,3-Dichloro-4-(pyrrolidin-1-ylmethyl)phenyl]-N,N-dimethylcyclobutanecarboxamide, hydrochloride | 74 mg, 28% | Cl.ClC1=C(C=CC(=C1Cl)CN1CCCC1)[C@@H]1C[C@H](C1)C(=O)N(C)C | InChI=1S/C18H24Cl2N2O.ClH/c1-21(2)18(23)14-9-13(10-14)15-6-5-12(16(19)17(15)20)11-22-7-3-4-8-22;/h5-6,13-14H,3-4,7-11H2,1-2H3;1H/t13-,14-;
